US06348474B1
2-Methylpyrazolo[1,5-a]pyridine-5-carboxylic acid
A mixture of 2-methylpyrazolo[1,5-a]pyridine-3,5-dicarboxylic acid (1.39 g) and polyphosphoric acid (13.9 g) was stirred at 150° C. with heating for 2 hr, and ice (14 g) was added under ice-cooling, which was followed by shaking to give a homogeneous solution. The reaction mixture was adjusted to pH 4 at the same temperature and diluted with dichloromethane/methanol (4:1) and water. The precipitate was collected by filtration to give the objective compound (610 mg) as a pale-brown powder. The organic layer of the mother liquor was taken, and the aqueous layer was extracted with dichloromethane/methanol (4:1). Both organic layers were combined, dried over magnesium sulfate and concentrated to dryness under reduced pressure. The residue was washed with ether to give second crystals (200 mg) as a pale-brown powder.

reactant | 2-methylpyrazolo[1,5-a]pyridine-3,5-dicarboxylic acid | 1.39 g | CC1=NN2C(C=C(C=C2)C(=O)O)=C1C(=O)O | C10H8N2O4
solvent | dichloromethane methanol | ClCCl.CO
solvent | water | O | H2O
product | 2-Methylpyrazolo[1,5-a]pyridine-5-carboxylic acid | 610 mg | CC1=NN2C(C=C(C=C2)C(=O)O)=C1 | C9H8N2O2
